US06037354
To a solution of 17.8 mL of methanol containing 2-(4-oxocyclohexyl)pyridine N-oxide (1.8 g, 9.41 mmol) and 1.75 g (9.41 mmol) of (3R)-(+)-3-(tert-butoxycarbonylamino)-pyrrolidine was added 3.23 mL (56.4 mmol) of glacial acetic acid under an inert atmosphere. The resulting solution was stirred at ambient temperature for 20 minutes, cooled to 0° C., and treated with four equal portions of solid sodium cyanoborohyride (total: 296 mg, 4.71 mmol). The reaction mixture was stirred at 0° C. for 20 minutes more. All volatiles were removed under reduced pressure and the residue was taken up in 200 mL of ethyl acetate. The organic layer was washed with 10% sodium carbonate solution and brine, then dried (sodium sulfate) and concentrated to yield 2.86 g of the crude product as an oil. The desired trans-2-[4-(3-tert-butoxycarbonylaminopyrrolidin-1-yl)-cyclohexyl]-pyridine N-oxide was obtained via preparative centrifugal chromatography on silica gel (chloroform-methanol gradient elution). A portion of this material (544 mg, 1.505 mmol) was dissolved in 300 mL ethyl acetate at 0° C., and HCl gas was bubbled through the solution for 10 min. The reaction mixture was allowed to come to room temperature over a 1 hour period. All volatiles were rotoevaporated under reduced pressure to give a white solid. This material was resuspended in 200 mL of ethyl acetate and treated with 10 ml of 10% sodium carbonate solution. After 10 minutes the phases were separated and the organic layer was dried (sodium sulfate). The aqueous layer was concentrated to dryness and the residue was stirred with a chloroform-methanol mixture (4:1, v/v). The suspension was filtered and the filtrate was combined with the ethyl acetate extracts. The combined organic extracts were then concentrated and azeotropically dried with toluene to give 400 mg of the title compound as a tan powder.

reactant | 2-(4-oxocyclohexyl)pyridine N-oxide | 9.41 mmol, 1.8 g | O=C1CCC(CC1)C1=[N+](C=CC=C1)[O-] | C11H13NO2
reactant | (3R)-(+)-3-(tert-butoxycarbonylamino)-pyrrolidine | 9.41 mmol, 1.75 g | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | acetic acid | 56.4 mmol, 3.23 mL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | methanol | 17.8 mL | CO | CH4O
product | trans-2-[4-(3-tert-butoxycarbonylaminopyrrolidin-1-yl)-cyclohexyl]-pyridine N-oxide | C(C)(C)(C)OC(=O)NC1CN(CC1)[C@@H]1CC[C@H](CC1)C1=[N+](C=CC=C1)[O-] | C20H31N3O3
